US05578627
To a solution of 0.39 g of 3-(2-amino-3-hydroxypropoxy)-5-methyl-1,2-benzoisoxazole hydrochloride in 4 ml of water is added 4 ml of ethyl acetate, and the pH is adjusted to 11 with 10% (w/w) aqueous sodium hydroxide solution, after which the organic layer is separated. The separated organic layer is washed with a saturated saline solution and dried over anhydrous magnesium sulfate, after which the solvent is removed by distillation under reduced pressure to obtain 0.32 g of colorless, solid 3-(2-amino-3-hydroxypropoxy)-5-methyl-1,2-benzoisoxazole.

reactant | 3-(2-amino-3-hydroxypropoxy)-5-methyl-1,2-benzoisoxazole hydrochloride | 0.39 g | Cl.NC(COC1=NOC2=C1C=C(C=C2)C)CO
reactant | ethyl acetate | 4 ml | C(C)(=O)OCC | C4H8O2
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | 4 ml | O | H2O
product | 3-(2-amino-3-hydroxypropoxy)-5-methyl-1,2-benzoisoxazole | NC(COC1=NOC2=C1C=C(C=C2)C)CO | C11H14N2O3
